US04415580
A mixture containing 9.5 g of 1,2-dihydro-6-methyl-2-oxo-5-(n-propanoyl)-3-pyridinecarbonitrile, 50 ml of dimethylformamide and 8 ml of dimethylformamide dimethyl acetal was stirred at room temperature overnight and then concentrated to dryness on a rotary evaporator. The residue was refluxed with isopropyl alcohol; the insoluble yellow solid was collected, washed with isopropyl alcohol and dried at 90° C. to yield 2.8 g of 1,2-dihydro-6-(2-dimethylaminoethenyl)-2-oxo-5-(n-propanoyl)-3-pyridinecarbonitrile, m.p. 278°-280° C. with decomposition. The mother liquor was treated with decolorizing charcoal, filtered and concentrated to about 150 ml and allowed to stand at room temperature. The product that separated was collected, washed with isopropyl alcohol and dried to yield another 1.8 g of product, m.p. 270° C.

reactant | 1,2-dihydro-6-methyl-2-oxo-5-(n-propanoyl)-3-pyridinecarbonitrile | 9.5 g | CC1=C(C=C(C(N1)=O)C#N)C(CC)=O | C10H10N2O2
reactant | dimethylformamide dimethyl acetal | 8 ml | COC(N(C)C)OC | C5H13NO2
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 1,2-dihydro-6-(2-dimethylaminoethenyl)-2-oxo-5-(n-propanoyl)-3-pyridinecarbonitrile | 2.8 g | CN(C=CC1=C(C=C(C(N1)=O)C#N)C(CC)=O)C | C13H15N3O2
